US05089505
4-Hydroxy-3-nitrophenethyl chloride
A solution of concentrated nitric acid (1.8 ml) in acetic acid (4 ml) was added to a stirred solution of 4-hydroxyphenethyl chloride (4.5 g) in acetic acid (25 ml), keeping the temperature below 15°. The mixture was then stirred at 10° for 3.5 hours, poured into water, and extracted into ethyl acetate. The organic extract was washed with 5% aqueous sodium carbonate solution, dried over magnesium sulphate and evaporated. The residue was purified by chromatography on silica (50 g) using hexane plus 0-10% ethyl acetate as the eluant. Appropriate fractions were combined and evaporated to give the title compound as a colourless solid (3.2 g, 55%), m.p. 53°-55°.

reactant | nitric acid | 1.8 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-hydroxyphenethyl chloride | 4.5 g | OC1=CC=C(CCCl)C=C1 | C8H9ClO
reactant | water | O | H2O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 4-Hydroxy-3-nitrophenethyl chloride | 3.2 g, 55% | OC1=C(C=C(CCCl)C=C1)[N+](=O)[O-] | C8H8ClNO3
